US07947761B2
N-[2-(4-methoxy-3-nitrophenyl)ethyl]acetamide (7.4 g) in 150 mL of ethanol was hydrogenated in the presence of 3.5 mL of concentrated HCl and 0.4 g of 10% Pd/C at 30-40 psi for 3 hours in a Parr shaker. After this time, the catalyst was filtered off, and the solvent was removed by rotary evaporation to yield 7.1 g of N-[-2-(3-amino-4-methoxyphenyl)ethyl]acetamide hydrochloride as an off-white solid (94.0% yield). 1HNMR (DMSO-d6) spectrum was consistent with the desired product.

reactant | N-[2-(4-methoxy-3-nitrophenyl)ethyl]acetamide | 7.4 g | COC1=C(C=C(C=C1)CCNC(C)=O)[N+](=O)[O-] | C11H14N2O4
reactant | HCl | 3.5 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | N-[-2-(3-amino-4-methoxyphenyl)ethyl]acetamide hydrochloride | 7.1 g, 94.0% yield | Cl.NC=1C=C(C=CC1OC)CCNC(C)=O | InChI=1S/C11H16N2O2.ClH/c1-8(14)13-6-5-9-3-4-11(15-2)10(12)7-9;/h3-4,7H,5-6,12H2,1-2H3,(H,13,14);1H
